### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Dimension): generalize and golf

### PR DESCRIPTION
**Pull request by alreadydone**
LinearAlgebra/Dimension/Finite.lean: generalize Ring/AddCommGroup to Semiring/AddCommMonoid whenever possible

LinearAlgebra/Dimension/DivisionRing.lean: generalize DivisionRing to OrzechProperty, move to new file OrzechProperty.lean

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean [hunk 1]
```diff
@@ -111,105 +111,65 @@ section Basis
...
-    apply eq_neg_of_add_eq_zero_left
-    calc
-      (b i + (g i)⁻¹ • (s.erase i).sum fun j => g j • b j) =
-          (g i)⁻¹ • (g i • b i + (s.erase i).sum fun j => g j • b j) := by
-        rw [smul_add, ← mul_smul, inv_mul_cancel₀ gx_ne_zero, one_smul]
-      _ = (g i)⁻¹ • (0 : V) := congr_arg _ ?_
-      _ = 0 := smul_zero _
-    -- And then it's just a bit of manipulation with finite sums.
-    rwa [← Finset.insert_erase i_mem_s, Finset.sum_insert (Finset.notMem_erase _ _)] at dependent
+-- TODO: move this section to a new file `OrzechProperty.lean`.
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Dimension/DivisionRing.lean]: When will this todo be happening? In this PR or in a follow up?

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean [hunk 2]
```diff
@@ -111,105 +111,65 @@ section Basis
...
+variable [Semiring R] [OrzechProperty R] [AddCommMonoid M] [Module R M]
+
+example (K) [DivisionRing K] : OrzechProperty K := inferInstance
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Dimension/DivisionRing.lean]: Is this intentional?

**Review by erdOne — COMMENTED** [review]
Basically LGTM

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean]: I'm happy to remove it; it's mostly to convince the reviewer that this is really a generalization.

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean]: Let me do it now; need to assemble the right authors in the file header ...

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/e9d209958812b70a65d0092ceafc933a7be83ba2?reference=91b78e4d87f6d8084f92183992611f2312971592) for e9d209958812b70a65d0092ceafc933a7be83ba2 against 91b78e4d87f6d8084f92183992611f2312971592 are in! @riccardobrasca
<details open>
<summary>Runs (1)</summary>

- 🟥 `main` exited with code **-1**
</details>

**Comment by alreadydone** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/75c31d38d31ce9640133bfe2e6b67328ef4a1ea0?reference=91b78e4d87f6d8084f92183992611f2312971592) for 75c31d38d31ce9640133bfe2e6b67328ef4a1ea0 against 91b78e4d87f6d8084f92183992611f2312971592 are in! @riccardobrasca
<details open>
<summary>Runs (1)</summary>

- 🟥 `main` exited with code **-1**
</details>

**Comment by riccardobrasca** [comment]
Mmm, that's weird, can you merge master and bench again?

**Comment by leanprover-radar** [comment]
Benchmarking 75c31d38d31ce9640133bfe2e6b67328ef4a1ea0 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/75c31d38d31ce9640133bfe2e6b67328ef4a1ea0)) against 91b78e4d87f6d8084f92183992611f2312971592 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/91b78e4d87f6d8084f92183992611f2312971592)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>
